US07576077B2
2-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
2-Carboxymethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (1.87 g, 7.25 mmol), 3-chloro-N-hydroxy-benzamidine (1.36 g, 7.98 mmol), HOBt (1.08 g, 7.98 mmol) and EDCl (1.53 g, 7.98 mmol) in DMF (20 mL) were stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with water (3 times), saturated sodium bicarbonate (2 times) and brine, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was dissolved in DMF (20 mL) and then heated at 135° C. for 4 hours. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water (3 times) and brine, dried over anhydrous sodium sulfate, filtered and concentrated. Purification was performed by flash chromatography on silica gel using hexanes:dichloromethane (1:1) to afford the titled compound (1.48 g, 52%, white foam solid). 1H NMR (CDCl3) δ (ppm): 8.08 (m, 1H), 7.97 (m, 1H), 7.46 (m, 2H), 6.35 (m, 1H), 5.04 (m, 1H), 4.31 (m, 1H), 3.68 (m,1H), 3.50 ( m, 2H), 3.27 (m, 2H), 1.35 (bs, 9H).

reactant | 2-Carboxymethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 7.25 mmol, 1.87 g | C(C)(C)(C)OC(=O)N1C(C(NCC1)=O)CC(=O)O | C11H18N2O5
reactant | 3-chloro-N-hydroxy-benzamidine | 7.98 mmol, 1.36 g | ClC=1C=C(C(=N)NO)C=CC1 | C7H7ClN2O
reactant | HOBt | 7.98 mmol, 1.08 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 7.98 mmol, 1.53 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 1.48 g, 52% | C(C)(C)(C)OC(=O)N1C(C(NCC1)=O)C1=NC(=NO1)C1=CC(=CC=C1)Cl | C17H19ClN4O4
